US08420642B2
5-Chloro-3-cyclopentyloxy-2-nitro-pyridine (0.8 mmol) is dissolved in DMF (8 ml), phenol (3 eq.) and K2CO3 (4 eq.) is added. The reaction mixture is heated to 100° C. in the microwave for 60 min. The reaction solution is pored into water and extracted with methyl-tert.-butyl ether. The combined organic layers are washed with brine, dried over MgSO4 and the solvent is removed in vacuo. 3-Cyclopentyloxy-2-nitro-5-phenoxy-pyridine is obtained after column chromatography (heptane/ethyl acetate) as yellow oil in a yield of 60%; HPLC (method C): 2.23 min; LC-MS (method A): 2.31 min, 301.15 (M+H+).

reactant | 5-Chloro-3-cyclopentyloxy-2-nitro-pyridine | 0.8 mmol | ClC=1C=C(C(=NC1)[N+](=O)[O-])OC1CCCC1 | C10H11ClN2O3
reactant | phenol | 3 eq. | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-Cyclopentyloxy-2-nitro-5-phenoxy-pyridine | yield of 60% | C1(CCCC1)OC=1C(=NC=C(C1)OC1=CC=CC=C1)[N+](=O)[O-] | C16H16N2O4
